US04460596
4.7 g of N-benzoyl-N-[(3-thienylcarbonyl)methyl]amine, 1.1 g of 50% sodium hydride and 3.9 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(4). 4.2 g of ethyl 3-benzoylamino-3-(3-thienylcarbonyl)propionate are thereby obtained.

reactant | N-benzoyl-N-[(3-thienylcarbonyl)methyl]amine | 4.7 g | C(C1=CC=CC=C1)(=O)NCC(=O)C1=CSC=C1 | C13H11NO2S
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | ethyl bromoacetate | 3.9 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-benzoylamino-3-(3-thienylcarbonyl)propionate | 4.2 g, Yield: 68% | C(C1=CC=CC=C1)(=O)NC(CC(=O)OCC)C(=O)C1=CSC=C1 | C17H17NO4S
